US07875636B2
To a solution of 3.00 g (14.0 mmol) 4-bromophenyl acetic acid in 25.0 ml DMF was added 3.60 g (27.9 mmol) 4-methyl-1,3-oxazole-5-carboxylic acid, 6.80 g (20.9 mmol) cesium carbonate, 4.1 g (14.0 mmol) tetrabutyl ammonium chloride monohydrate, and 0.400 g (0.700 mmol) bis(tri-t-butylphosphine)palladium(0). After 3.00 h at 140° C., the reaction mixture was, diluted with CH2Cl2, washed with 10% citric acid, washed twice with water, and washed with brine. The organic layer was dried over NaSO4, filtered and concentrated in vacuo. Purification by preparative HPLC (5→95% CH3CN/H2O over 20 min, 0.05% added TFA, C18 50×150 mm) afforded 0.730 g (24%) [4-(4-methyl-1,3-oxazol-5-yl)phenyl]acetic acid. 1H NMR (CD3OD, 400 MHz) δ 8.14 (s, 1H); 7.61 (d, 2H, J=8.32 Hz); 7.41 (d, 2H, J=8.33 Hz); 3.65 (s, 2H); 2.41 (s, 3H). ESMS+1 for C12H11NO3: 218.1. To a solution of 0.725 g (3.34 mmol) [4-(4-methyl-1,3-oxazol-5-yl)phenyl]acetic acid in 7.00 ml CH2Cl2 was added 0.978 g (3.34 mmol) 2-[(1R)-1-ammonioethyl]-5-(2,2,2-trifluoroethoxy)pyridinium dichloride, 0.591 g (4.34 mmol) HOAT, 0.832 g (4.34 mmol) EDC, and 1.75 mL (10.0 mmol) DIEA. After 24.0 h at room temperature, the reaction mixture was diluted with CH2Cl2, washed three times with water, and washed with brine. The organic layer was dried over NaSO4, filtered and concentrated in vacuo. Purification by flash chromatography (1×14 cm silica gel, linear gradient 20-100% EtOAc:hexane) afforded 0.720 g (51.4%) 2-[4-(4-methyl-1,3-oxazol-5-yl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide. 1H NMR (CDCl3, 400 MHz) δ 8.22 (d, 1H, J=2.38 Hz); 7.83 (s, 1H); 7.59 (dd, 2H, J=1.83 Hz, 6.59 Hz); 7.36 (d, 2H, J=8.42 Hz); 7.22 (m, 2H); 6.72 (br d, 1H, J=7.51 Hz); 5.12 (m, 1H); 4.38 (q, 2H, J=8.06 Hz); 3.62 (s, 2H); 2.45 (s, 3H); 1.41 (d, 3H, J=6.78). HRMS (ES) exact mass calcd for C21H20F3N3O3: 420.1540, Found: 420.1530.

reactant | [4-(4-methyl-1,3-oxazol-5-yl)phenyl]acetic acid | 3.34 mmol, 0.725 g | CC=1N=COC1C1=CC=C(C=C1)CC(=O)O | C12H11NO3
reactant | 2-[(1R)-1-ammonioethyl]-5-(2,2,2-trifluoroethoxy)pyridinium dichloride | 3.34 mmol, 0.978 g | [Cl-].[Cl-].[NH3+][C@H](C)C1=[NH+]C=C(C=C1)OCC(F)(F)F
reactant | HOAT | 4.34 mmol, 0.591 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 4.34 mmol, 0.832 g
reactant | DIEA | 10.0 mmol, 1.75 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 7.00 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-methyl-1,3-oxazol-5-yl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide | 0.720 g, 51.4% | CC=1N=COC1C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C21H20F3N3O3
